US05021449
Dimethyl 3-methoxy-4-methyl-2,5-thiophene dicarboxylate
A solution of dimethyl 4-hydroxy-3-methyl-2,5-thiophene dicarboxylate (4.26 g) in acetone (100 ml) containing anhydrous potassium carbonate (2.34 g) was stirred for 1 hour at room temperature. Dimethyl sulphate (1.62 ml) was added and the solution refluxed for 2 hours. The solvent was then removed under vacuum and, after treating the residue with water-ethyl acetate, was extracted several times with ethyl acetate; the organic extracts were collected, washed with water, dried over anhydrous magnesium sulphate, filtered and the solvent evaporated to give a solid, m.p. 61°-64° ex methanol.

reactant | dimethyl 4-hydroxy-3-methyl-2,5-thiophene dicarboxylate | 4.26 g | OC=1C(=C(SC1C(=O)OC)C(=O)OC)C | C9H10O5S
reactant | potassium carbonate | 2.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethyl sulphate | 1.62 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Dimethyl 3-methoxy-4-methyl-2,5-thiophene dicarboxylate | COC1=C(SC(=C1C)C(=O)OC)C(=O)OC | C10H12O5S
